US04845030
N-(2-Acetamidoethyl)-1,2,3,4-tetrahydroquinoline
13.3 g. (0.1 mol) 1,2,3,4-tetrahydroquinoline and 9.4 g. (0.11 mol) acetylaziridine were boiled overnight under reflux in 200 ml. anhydrous methanol. After evaporating in a rotary evaporator, the mixture obtained of unreacted starting material and reaction product (13 g.) was purified by column chromatography on silica gel (elution agent: chloroform/acetone=4/1 v/v; m.p. 102° C.

reactant | 1,2,3,4-tetrahydroquinoline | 0.1 mol | N1CCCC2=CC=CC=C12 | C9H11N
reactant | acetylaziridine | 0.11 mol | C(C)(=O)N1CC1 | C4H7NO
solvent | methanol | CO | CH4O
product | N-(2-Acetamidoethyl)-1,2,3,4-tetrahydroquinoline | C(C)(=O)NCCN1CCCC2=CC=CC=C12 | C13H18N2O
